US06313122B1
C. 2-[[1-(4-Pyridyl)piperidin-4-ylcarbonyl]amino]-N-(4-methylphenyl)benzamide hydrochloride
Using the procedure described in Example 138, N-(4-methylphenyl)-2-aminobenzamide (0.97 mmol) and N-(4-pyridyl)isonipecotoyl chloride (1.9 mmol), purifying with RPHPLC Method A, yielded 147 mg (34%) of the title compound.

reactant | N-(4-methylphenyl)-2-aminobenzamide | 0.97 mmol | CC1=CC=C(C=C1)NC(C1=C(C=CC=C1)N)=O | C14H14N2O
reactant | N-(4-pyridyl)isonipecotoyl chloride | 1.9 mmol | N1=CC=C(C=C1)N1CCC(C(=O)Cl)CC1 | C11H13ClN2O
product | 2-[[1-(4-Pyridyl)piperidin-4-ylcarbonyl]amino]-N-(4-methylphenyl)benzamide hydrochloride | 147 mg, 34% | Cl.N1=CC=C(C=C1)N1CCC(CC1)C(=O)NC1=C(C(=O)NC2=CC=C(C=C2)C)C=CC=C1 | InChI=1S/C25H26N4O2.ClH/c1-18-6-8-20(9-7-18)27-25(31)22-4-2-3-5-23(22)28-24(30)19-12-16-29(17-13-19)21-10-14-26-15-11-21;/h2-11,14-15,19H,12-13,16-17H2,1H3,(H,27,31)(H,28,30);1H
